US04056521
Methyl 2-bromomethyl-2-methyl-6-(2-phenoxyacetamido)penam-3-carboxylate (0.88 g) was dissolved in methylene chloride (13 ml) containing methanol. To the solution was added silver fluoroborate (0.45 g), and the mixture was stirred for 2 hours. After the reaction, the reaction mixture was filtered and the filtrate was washed with a dilute sodium bicarbonate aqueous solution and then with water. The solution was dried over magnesium sulfate and concentrated. The residue was subjected to column chromatography on silica gel (25 g) and eluted with chloroform. The elute was separated into fractions of each about 20 ml and the seventh to tenth fractions were collected. The solvent was distilled off to give Methyl 3-methoxy-3-methyl-7-(2-phenoxyacetamido)cepham-4-carboxylate (0.60 g).

reactant | Methyl 2-bromomethyl-2-methyl-6-(2-phenoxyacetamido)penam-3-carboxylate | 0.88 g | BrCC1(S[C@H]2N(C1C(=O)OC)C(C2NC(COC2=CC=CC=C2)=O)=O)C | C17H19BrN2O5S
reactant | methanol | CO | CH4O
solvent | methylene chloride | 13 ml | C(Cl)Cl | CH2Cl2
catalyst | silver fluoroborate | 0.45 g | F[B-](F)(F)F.[Ag+]
product | Methyl 3-methoxy-3-methyl-7-(2-phenoxyacetamido)cepham-4-carboxylate | 0.60 g | COC1(CS[C@H]2N(C1C(=O)OC)C(C2NC(COC2=CC=CC=C2)=O)=O)C | C18H22N2O6S
